US07361677B2
4-{[Bis-(4-sulphamoyloxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02075)
Sulphamoyl chloride solution in toluene (5 mL, 0.7 M, 3.5 mmol) was concentrated under reduced pressure (30° C. water bath temperature) to ca. 1 mL volume. The residue was cooled to 0° C. (ice bath) and N,N-dimethylacetamide (5 mL) was added. 4-{[Bis-(4-hydroxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02070, 250 mg, 0.65 mmol) was added to the colourless solution and the mixture was stirred for 18 h at room temperature. Ethyl acetate (50 mL) and water (30 mL) were added to the solution, the organic layer was separated, washed with water (2×30 mL) and brine (20 mL), dried over sodium sulphate and concentrated under reduced pressure to give a white solid. The solid was dissolved in ethyl acetate and precipitated by addition of hexane. The white powder was filtered off and dried under high vacuum. Yield: 299 mg (85%).

reactant | Sulphamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | toluene | 3.5 mmol, 0.7 M, 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-{[Bis-(4-hydroxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | 0.65 mmol, 250 mg | OC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)N(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C22H17N5O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 4-{[Bis-(4-sulphamoyloxy-phenyl)-methyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | S(N)(=O)(=O)OC1=CC=C(C=C1)C(C1=CC=C(C=C1)OS(N)(=O)=O)N(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C22H19N7O6S2
